US05436257
5-(4-{2- [2-(2,5-Dimethoxy-3,4,6 -trimethylphenyl)-2-hydroxyethylamino]propoxy}benzyl)thiazolidine-2,4-dion
A solution of 1.23 g of 2-amino-1-(2,5-dimethoxy-3,4,6-trimethylphenyl)ethanol [prepared as described in Preparation 14] and 3.0 g of 5-[4-(2-oxopropoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione [prepared as described in Preparation 20] in 300 ml of benzene was heated under reflux for approximately 4 hours, during which time the water produced throughout the reaction was eliminated as a benzene azeotrope. The reaction mixture was then freed from benzene by distillation under reduced pressure. The residue was dissolved in a mixture of 100 ml of absolute methanol and 100 ml of absolute ethanol, after which 8.5 g of sodium borohydride were added to the solution. The resulting mixture was then heated under reflux for one hour. At the end of this time, the reaction mixture was freed from the alcohol by distillation under reduced pressure. The residue was then mixed with water and then it was extracted with ethyl acetate. The ethyl acetate layer was then washed twice with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure, and 50 ml of trifluoroacetic acid were then added to the residue, whilst ice-cooling. The resulting mixture was then stirred at room temperature for one hour. At the end of this time, the trifluoroacetic acid was distilled off under reduced pressure and the residue was mixed with water. The aqueous mixture thus obtained was then neutralized with an aqueous solution of potassium carbonate, after which it was extracted with ethyl acetate. The extract was washed twice with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, after which the residue was purified by column chromatography through silica gel, using a 5:1 by volume mixture of ethyl acetate and ethanol as the eluent, to give 160 mg of the title compound, having an Rf=0.3 (thin layer chromatography on silica gel, using a 5:1 by volume mixture of ethyl acetate and ethanol as the developing solvent).

reactant | 2-amino-1-(2,5-dimethoxy-3,4,6-trimethylphenyl)ethanol | 1.23 g | NCC(O)C1=C(C(=C(C(=C1C)OC)C)C)OC | C13H21NO3
reactant | 5-[4-(2-oxopropoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 3.0 g | O=C(COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1)C | C32H27NO4S
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 5-(4-{2- [2-(2,5-Dimethoxy-3,4,6 -trimethylphenyl)-2-hydroxyethylamino]propoxy}benzyl)thiazolidine-2,4-dion | 160 mg | COC1=C(C(=C(C(=C1C)C)OC)C)C(CNC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O | C26H34N2O6S
